US05250548
Ethyl 3-aminobenzoate
To 3-aminobenzoic acid (7.00 g, 0.52 mol) dissolved in 300 mL of absolute ethanol was added ~3.5 mL of concentrated sulfuric acid. The reaction mixture was heated at reflux for 2 days and then cooled to ambient temperature. Potassium carbonate (8.9 g) was added and then most of the ethanol was removed under reduced pressure. The solution was partitioned between chloroform and water. The organic phase was washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue obtained was filtered through silica gel eluting with ethyl acetate to afford the title compound. 1H NMR (CDCl3, 300 MHz) δ 1.40 (t, 3H), 3.85 (bs, 2H), 4.35 (q, 2H), 6.90 (m, 1H), 7.25 (m, 1H), 7.45 (m, 2H). MS (DCl/NH3) m/e 166 (M+H)+, 183 (M+H+NH3)+.

reactant | 3-aminobenzoic acid | 0.52 mol, 7.00 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | sulfuric acid | ~3.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | Potassium carbonate | 8.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | Ethyl 3-aminobenzoate | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
